US06545009B1
In the same manner as in Example 74, 4-chlorothiobenzamide was reacted with ethyl 4-bromoacetylbenzoate to obtain ethyl 4-[2-(4-chlorophenyl)-4-thiazolyl)benzoate. The product was recrystallized from ethanol. Yield: 47%. Pale yellow prisms. Melting point: 105 to 106° C.

reactant | 4-chlorothiobenzamide | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
reactant | ethyl 4-bromoacetylbenzoate | BrCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H11BrO3
product | ethyl 4-[2-(4-chlorophenyl)-4-thiazolyl)benzoate | Yield: 47% | ClC1=CC=C(C=C1)C=1SC=C(N1)C1=CC=C(C(=O)OCC)C=C1 | C18H14ClNO2S
